US06569888B1
Methyl 4-Hydroxy-5-methoxyindole-2-carboxylate
5% Palladium on carbon (0.3 g) and methyl 4-benzyloxy-5-methoxyindole-2-carboxylate (2.0 g) in ethyl acetate (30 ml) were vigorously stirred under an atmosphere of hydrogen for 16 hours. The reaction was filtered through celite and the concentrated in vacuo to give the product as a cream solid (1.29 g, 91%); NMR d (CD3SOCD3) 3.74 (s, 3H), 3.82 (s, 3H), 6.80 (d, 1H), 7.00 (d, 1H), 7.16 (s, 1H), 9.10 (s, 1H), 11.58 (brs, 1H); M/z (+) 222 (MH+).

reactant | methyl 4-benzyloxy-5-methoxyindole-2-carboxylate | 2.0 g | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1OC)C(=O)OC | C18H17NO4
catalyst | Palladium on carbon | 0.3 g | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 4-Hydroxy-5-methoxyindole-2-carboxylate | 1.29 g, 91% | OC1=C2C=C(NC2=CC=C1OC)C(=O)OC | C11H11NO4
